US07618960B2
Synthesis of [(6R*,9aS*)-6-(4-fluorophenyl)-4-oxooctahydropyrido[2,1-c][1,4]oxazin-3-yl]triphenylphosphonium bromide
A solution of (6R*,9aS*)-6-(4-fluorophenyl)-3-hydroxyhexahydropyrido[2,1-c][1,4]oxazin-4-one (26 mg) and triphenylphosphonium bromide (40 mg) in acetonitrile (3 mL) was heated under reflux for one hour and 30 minutes. The reaction solution was left to cool to room temperature, and then the solvent was evaporated under reduced pressure to obtain 57 mg of the title compound. The property value of the compound is as follows.

reactant | (6R*,9aS*)-6-(4-fluorophenyl)-3-hydroxyhexahydropyrido[2,1-c][1,4]oxazin-4-one | 26 mg | FC1=CC=C(C=C1)[C@H]1CCC[C@H]2COC(C(N21)=O)O | C14H16FNO3
reactant | triphenylphosphonium bromide | 40 mg | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | [(6R*,9aS*)-6-(4-fluorophenyl)-4-oxooctahydropyrido[2,1-c][1,4]oxazin-3-yl]triphenylphosphonium bromide | 57 mg | [Br-].FC1=CC=C(C=C1)[C@H]1CCC[C@H]2COC(C(N21)=O)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C32H30FNO2P.BrH/c33-25-21-19-24(20-22-25)30-18-10-11-26-23-36-32(31(35)34(26)30)37(27-12-4-1-5-13-27,28-14-6-2-7-15-28)29-16-8-3-9-17-29;/h1-9,12-17,19-22,26,30,32H,10-11,18,23H2;1H/q+1;/p-1/t26-,30+,32?;/m0./s1
